US06740647B1
f) 4-Cyano-2-(N-Boc-aminomethyl)-5-methylthiazole
2-(N-Boc-Aminomethyl)-5-methylthiazole-4-carboxamide (6.8 g, 25 mmol) was introduced into dichloromethane (120 ml). After the mixture had cooled to 0° C. diisopropylethylamine (15.84 g, 122.8 mmol) was added dropwise. Then, a solution of trifluoroacetic anhydride (8.25 g, 39.3 mmol) in dichloromethane (20 ml) was added dropwise at −5° C. in the course of 30 minutes. After the mixture had been stirred for 30 minutes at 0° C., it was warmed to room temperature, and stirring was continued for another 12 hours. The mixture was diluted with dichloromethane (100 ml) and washed with 20% strength citric acid, saturated NaHCO3 [sic] solution and saturated NaCl solution. The organic phase was dried (MgSO4) and concentrated in vacuo. Yield: 6.3 g (25 mmol, quant.).

reactant | 2-(N-Boc-Aminomethyl)-5-methylthiazole-4-carboxamide | 25 mmol, 6.8 g | C(=O)(OC(C)(C)C)NCC=1SC(=C(N1)C(=O)N)C | C11H17N3O3S
reactant | diisopropylethylamine | 122.8 mmol, 15.84 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoroacetic anhydride | 39.3 mmol, 8.25 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | 4-Cyano-2-(N-Boc-aminomethyl)-5-methylthiazole | C(#N)C=1N=C(SC1C)CNC(=O)OC(C)(C)C | C11H15N3O2S
